US09376441B2
4-bromo-N-cyclopropyl-2-methoxy-6-nitroaniline (1.05 g, 3.66 mmol) and iron powder (1.43 g, 25.6 mmol) were suspended in ethanol (19 mL) and acetic acid (9.5 mL). The stirred mixture was heated to 60° C. for 1 h and was diluted with EtOH (20 mL EtOH). Celite (15 g) was added and the mixture was filtered through a pad of Celite with EtOH. The filtrated was concentrated in vacuo. The crude residue was taken up in and concentrated once from 30 mL EtOH to afford crude 4-bromo-N1-cyclopropyl-6-methoxybenzene-1,2-diamine that was used immediately in the following step. LCMS-ESI+ (m/z): [M+H]+ calcd for C10H14BrN2O: 257.03; found: 257.15.

reactant | 4-bromo-N-cyclopropyl-2-methoxy-6-nitroaniline | 3.66 mmol, 1.05 g | BrC1=CC(=C(NC2CC2)C(=C1)[N+](=O)[O-])OC | C10H11BrN2O3
solvent | ethanol | 19 mL | C(C)O | C2H6O
solvent | acetic acid | 9.5 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | iron | 25.6 mmol, 1.43 g | [Fe] | Fe
product | 4-bromo-N1-cyclopropyl-6-methoxybenzene-1,2-diamine | BrC=1C=C(C(=C(C1)OC)NC1CC1)N | C10H13BrN2O
